US09126931B2
9-Ethyl-8-(4-hydroxy-piperidin-1-yl)-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile
The compounds described in the following Tables 8-10 were synthesized by introducing a corresponding amine to 9-ethyl-6,6-dimethyl-8-iodo-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile according to the method used for the synthesis of Compound PR9-1. Although the relevant literatures are not entirely known, some amines in which a tertiary alkyl group is attached to the nitrogen atom were prepared according to the method described in Journal of Medicinal Chemistry, 45 (14), 3143-3160, 2002. Alternatively, the preparation was carried out by introducing a corresponding amine to 9-ethyl-6,6-dimethyl-11-oxo-8-(4-oxopiperidin-1-yl)-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile based on the method that is used for the synthesis of Compound PR11-1 (i.e., reductive amination).

reactant | 9-ethyl-6,6-dimethyl-8-iodo-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | C(C)C1=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)C#N)(C)C)C=C1I | C21H17IN2O
reactant | 9-ethyl-6,6-dimethyl-11-oxo-8-(4-oxopiperidin-1-yl)-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | C(C)C1=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)C#N)(C)C)C=C1N1CCC(CC1)=O | C26H25N3O2
product | 9-Ethyl-8-(4-hydroxy-piperidin-1-yl)-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | C(C)C1=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)C#N)(C)C)C=C1N1CCC(CC1)O | C26H27N3O2
